US07745438B2
3-bromo-5-fluoro-phenol
Add aluminum chloride (13.51 g, 101.38 mmol) to 1-benzyloxy-3-bromo-5-fluoro-benzene (9.50 g, 33.79 mmol, prepared according to WO 03/101956) and dimethylaniline (40.96 g, 337.92 mmol) in dichloromethane (84 mL) at −0° C. under nitrogen and stir 10 minutes. Remove ice-bath and stir 2 hours. Add 60 mL 2N hydrochloric acid dropwise. Separate layers and wash the organic layer with 2N hydrochloric acid (4×50 mL). Extract the organic layer with 3N potassium hydroxide (4×50 mL). Acidify with 5N hydrochloric acid and extract with dichloromethane (3×50 mL). Dry the dichloromethane layer (sodium sulfate) and concentrate to give 4.3 g (66.6%) of the desired compound as an oil.

reactant | aluminum chloride | 101.38 mmol, 13.51 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-benzyloxy-3-bromo-5-fluoro-benzene | 33.79 mmol, 9.50 g | C(C1=CC=CC=C1)OC1=CC(=CC(=C1)F)Br | C13H10BrFO
reactant | dimethylaniline | 337.92 mmol, 40.96 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | hydrochloric acid | 2N, 60 mL | Cl | ClH
solvent | dichloromethane | 84 mL | ClCCl | CH2Cl2
product | 3-bromo-5-fluoro-phenol | 4.3 g, 66.6% | BrC=1C=C(C=C(C1)F)O | C6H4BrFO
